US05120751
Step 1. N-(3-benzoylphenyl) N-methyl 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxamide
Lithium hexamethyl disilazide (0.6 mL, 1.0M in hexanes) was added at 0° C. under nitrogen to a solution of N-(3-benzoylphenyl) 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxamide prepared as described in example 2 (202 mg, 0.41 mmol), in dry THF (4 mL, 0.1 mL). The mixture was stirred for 20 min then methyl iodide (25 μL) was added and the mixture stirred for an additional 8 hours. The reaction mixture was partioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfated and the solvent removed in vacuo. The residue was purified by flash chromatography eluting with hexanes:ethyl acetate (12:3) to yield the desired product (0.53 g, 45%).

reactant | Lithium hexamethyl disilazide | 1.0M, 0.6 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | N-(3-benzoylphenyl) 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxamide | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(=O)C1N(C(SC1)C=1C=NC=CC1)C(=O)OC(C)(C)C | C27H27N3O4S
reactant | methyl iodide | 25 μL | CI | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-benzoylphenyl) N-methyl 2-(3-pyridinyl)-3-tert-butoxycarbonyl-4-thiazolidinecarboxamide | 0.53 g, 45% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)N(C(=O)C1N(C(SC1)C=1C=NC=CC1)C(=O)OC(C)(C)C)C | C28H29N3O4S
